US07781463B2
2-Ethyl-4-(4-nitrophenyl)-1,2,4-thiadiazolidine-3,5-dione (Compound 49)
Reagents: 4-nitrophenyl isothiocyanate (1.17 g, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), ethyl isocyanate (0.51 ml, 6.5 mmol) in THF.

reactant | 4-nitrophenyl isothiocyanate | 6.5 mmol, 1.17 g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=S | C7H4N2O2S
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | ethyl isocyanate | 6.5 mmol, 0.51 ml | C(C)N=C=O | C3H5NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-Ethyl-4-(4-nitrophenyl)-1,2,4-thiadiazolidine-3,5-dione | C(C)N1SC(N(C1=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C10H9N3O4S
